US06455507B1
b) (±)-trans-2-(5,6-Dichloro-1H-benzimidazol-1-yl)cyclohexyl Acetate
(±)-trans-2-(5,6-Dichloro-1H-benzimidazol-1-yl)cyclohexanol (part a of this example, 6.25 g, 21.9 mmol) was stirred in acetic anhydride (3 ml)-pyridine (50 ml) for 18 h. Volatiles were evaporated and the residue partitioned between chloroform and saturated aqueous sodium bicarbonate. The chloroform solution was filtered through Celite/charcoal and evaporated to give title compound as an off-white solid (6.92 g, 97%), m.p. 145-147° C.

reactant | (±)-trans-2-(5,6-Dichloro-1H-benzimidazol-1-yl)cyclohexanol | ClC1=CC2=C(N(C=N2)[C@H]2[C@@H](CCCC2)O)C=C1Cl | C13H14Cl2N2O
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (±)-trans-2-(5,6-Dichloro-1H-benzimidazol-1-yl)cyclohexyl Acetate | 6.92 g, 97% | C(C)(=O)O[C@H]1[C@@H](CCCC1)N1C=NC2=C1C=C(C(=C2)Cl)Cl | C15H16Cl2N2O2
